US05136868
In the manner of Example 8, Step B, the reaction of 0.8 g (0.0031 mole) of 1-(2-chloro-4-fluoro-5-hydroxyphenyl)-1,4-dihydro-4-ethyl-5H-tetrazol-5-one with 0.9 g (0.0062 mole) of 1-bromo-2-propyne and 0.63 g (0.0046 mole) of potassium carbonate in 25 mL of acetone produced 0.6 g of 1-[2-chloro-4-fluoro-5-(2-propynyloxy)phenyl]-1,4-dihydro-4-ethyl-5H-tetrazol-5-one, mp 88°-89° C.

reactant | 1-(2-chloro-4-fluoro-5-hydroxyphenyl)-1,4-dihydro-4-ethyl-5H-tetrazol-5-one | 0.0031 mole, 0.8 g | ClC1=C(C=C(C(=C1)F)O)N1N=NN(C1=O)CC | C9H8ClFN4O2
reactant | 1-bromo-2-propyne | 0.0062 mole, 0.9 g | BrCC#C | C3H3Br
reactant | potassium carbonate | 0.0046 mole, 0.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 1-[2-chloro-4-fluoro-5-(2-propynyloxy)phenyl]-1,4-dihydro-4-ethyl-5H-tetrazol-5-one | 0.6 g | ClC1=C(C=C(C(=C1)F)OCC#C)N1N=NN(C1=O)CC | C12H10ClFN4O2
